US08461179B1
A −20° C. mixture of DIEA (552 mg, 4.27 mmol) and pyrrolidine (152 mg, 2.137 mmol) in THF (5 mL) was treated drop-wise with a solution of 2-(bromomethyl)-1-fluoro-4-nitrobenzene (500 mg, 2.137 mmol) in THF (5 mL), allowed to warm to RT and stirred for 6 h. The mixture was treated with EtOAc, washed with water, then brine, dried over Na2SO4 and concentrated to dryness to afford 1-(2-fluoro-5-nitrobenzyl)pyrrolidine (450 mg, 94% yield). MS (ESI) m/z: 225.1 [M+H]+.

reactant | DIEA | 4.27 mmol, 552 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 2.137 mmol, 152 mg | N1CCCC1 | C4H9N
reactant | 2-(bromomethyl)-1-fluoro-4-nitrobenzene | 2.137 mmol, 500 mg | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoro-5-nitrobenzyl)pyrrolidine | 450 mg, 94% yield | FC1=C(CN2CCCC2)C=C(C=C1)[N+](=O)[O-] | C11H13FN2O2
